US09290517B2
Step D: tert-butylN-[(3S,3aR,6R,6aR)-3-amino-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]carbamate
A solution of Boc2O (116.6 g, 0.54 mol) in DCM (500 mL) was added dropwise to a solution of (3R,3aR,6S,6aR)-hexahydrofuro[3,2-b]furan-3,6-diamine (115 g, 0.54 mol) and triethylamine (108 g, 1.07 mol) in DCM (1500 mL) with stirring at 0° C. After the addition, the reaction mixture was stirred at ambient temperature overnight. Water (2000 mL) was added into the reaction mixture, and the mixture was extracted with DCM (2000 mL×3). The combined organic layers were dried over anhydrous Na2SO4, and concentrated under reduced pressure. The residue was purified by column chromatography (DCM:MeOH=20:1) to give a light yellow solid, which was re-crystallized from EtOAc/hexane (1:3) to afford the title compound as a white solid.

reactant | Boc2O | 0.54 mol, 116.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (3R,3aR,6S,6aR)-hexahydrofuro[3,2-b]furan-3,6-diamine | 0.54 mol, 115 g | O1[C@H]2[C@@H]([C@@H](C1)N)OC[C@@H]2N | C6H12N2O2
reactant | triethylamine | 1.07 mol, 108 g | C(C)N(CC)CC | C6H15N
reactant | Water | 2000 mL | O | H2O
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1500 mL | C(Cl)Cl | CH2Cl2
product | tert-butylN-[(3S,3aR,6R,6aR)-3-amino-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]carbamate | C(C)(C)(C)OC(N[C@@H]1CO[C@H]2[C@@H]1OC[C@@H]2N)=O | C11H20N2O4
